US08541595B2
Step 1: 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-6-ol
To a solution of 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-6-methoxy-5H-imidazo[2,1-a]isoindole (190 mg) in CH2Cl2 (2 mL) was added BBr3 (1.7 ml) slowly at 0° C. After 90 min the mixture was quenched with saturated aqueous NaHCO3. The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were dried (Na2SO4), filtered, and concentrated to an off-white solid (179 mg) which was sufficiently pure for use in the next step.

reactant | 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-6-methoxy-5H-imidazo[2,1-a]isoindole | 190 mg | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC(=C13)OC)=NC=C2)CCC(=O)N2C(CCC2C)C | C26H28ClN3O2
reactant | BBr3 | 1.7 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-6-ol | ClC1=CC=C(C=C1)C1(N2C(C=3C=CC=C(C13)O)=NC=C2)CCC(=O)N2C(CCC2C)C | C25H26ClN3O2
